US07078425B2
2-Amino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide hydrochloride (0.31 g, 0.54 mmol) is dissolved in a mixture of dichloromethane (4 mL) and pyridine (1.5 mL). Benzenesulfonyl chloride (0.12 mL, 0.9 mmol) is added portionwise and the reaction is allowed to stir for a total of 18 h. The reaction is diluted with EtOAc and washed with water, 1N HCl three times, water, brine and dried over MgSO4. The solution is concentrated and purified by column chromatography (silica, 5% EtOAc/CH2Cl2 to provide 2-benzenesulfonylamino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazolyl)-N-(4-phenyl-butyl)-propionamide.

reactant | 2-Amino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide hydrochloride | 0.54 mmol, 0.31 g | Cl.NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NN(C2=C(C(=C1)Cl)OC)S(=O)(=O)C1=CC=CC=C1
reactant | Benzenesulfonyl chloride | 0.9 mmol, 0.12 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-benzenesulfonylamino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazolyl)-N-(4-phenyl-butyl)-propionamide | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=NN(C2=C(C(=CC=C12)Cl)OC)S(=O)(=O)C1=CC=CC=C1 | C33H33ClN4O6S2
